US08202868B2
2-tert-Butyl-4-cyclopropyl-6-{4-[3-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanyl)-propyl]-piperazin-1-yl}-pyrimidine
0.23 g of 5-methyl-[1,3,4]thiadiazol-2-thiol (1.77 mmol) were dissolved in 20 ml of dimethylformamide. After addition of 0.04 g of lithium hydroxide (1.77 mmol) and 0.13 g of sodium iodide (0.88 mmol), the reaction mixture was stirred at 70° C. and 0.6 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine (1.77 mmol), dissolved in 5 ml of dimethylformamide, added dropwise over 2 h. The mixture was stirred at 80° C. for 2 h. The dimethylformamide was then evaporated. The residue was partitioned between 40 ml of ethyl acetate and 15 ml of saturated aqueous sodium chloride solution and 15 ml of water. The aqueous phase was re-extracted twice with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated to dryness, to yield 0.69 g of the title compound as an oily residue. 0.8 g of the crude product were treated with 10 ml of n-hexane, the precipitate was collected by filtration and dried to yield 0.56 g of the title compound.

reactant | 5-methyl-[1,3,4]thiadiazol-2-thiol | 1.77 mmol, 0.23 g | CC1=NN=C(S1)S | C3H4N2S2
reactant | lithium hydroxide | 1.77 mmol, 0.04 g | [OH-].[Li+]
reactant | sodium iodide | 0.88 mmol, 0.13 g | [I-].[Na+]
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine | 1.77 mmol, 0.6 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CC1 | C18H29ClN4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-cyclopropyl-6-{4-[3-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanyl)-propyl]-piperazin-1-yl}-pyrimidine | 0.69 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CC1)N1CCN(CC1)CCCSC=1SC(=NN1)C | C21H32N6S2
